US05705702
A Grignard reagent was conventionally prepared using 4-dimethylaminophenyl bromide, magnesium, and THF and further reacted with thionyl chloride, obtaining bis(4-dimethylaminophenyl) sulfoxide in a yield of 33%. A solution of 7.0 g (0.024 mol) of the thus obtained bis(4-dimethylaminophenyl) sulfoxide in 100 g of methylene chloride was cooled at -70° C. in a dry ice/methanol bath whereupon with stirring, 6.0 g (0.027 mol) of trimethylsilyl triflate was added dropwise thereto at less -60° C.

reactant | 4-dimethylaminophenyl bromide | CN(C1=CC=C(C=C1)Br)C | C8H10BrN
reactant | magnesium | [Mg] | Mg
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | THF | C1CCOC1 | C4H8O
product | bis(4-dimethylaminophenyl) sulfoxide | yield of 33% | CN(C1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)N(C)C)C | C16H20N2OS
